US05541344
Scheme I describes the preferred enantioselective synthesis of azanoradamantane benzamide 11. Iodolactone 1 is treated with thionyl chloride to give the corresponding acid chloride which is converted to the primary amide 2 by treatment with ammonia. [Racemic 2 was previously prepared by a different route [JP 04013663 (1992); CA 116(25):255175s]from cis-5-norbornene-endo-2,3-dicarboxylic anhydride.]The primary amide 2 is then treated with HTIB [hydroxy(tosyloxy)iodobenzene] to afford the p-toluenesulfonic acid salt 3, followed by tosylation of the amine with toluenesulfonyl chloride in pyridine to afford the tosylamine 4. Treatment with zinc in acetic acid affords the norbornene carboxylic acid 5. Ozonolysis of 5, followed by treatment with sodium borohydride and an acidic workup yields the gamma-lactone 6. Ammonolysis of the gamma-lactone in methanol, affords the primary amide diol 7, which is reduced with borane to the primary amine and protected as the tert-butyl carbamate diol 8. Tosylation of the diol with toluenesulfonyl chloride in pyridine, deprotection of the tert-butyl carbamate with trifluoroacetic acid, and subsequent treatment with diisopropylethylamine in acetonitrile, affords the tosylaminoazanoradamantane 9. Deprotection of the tosylamine under Birch conditions, with alkali metals, and more preferably with calcium metal, affords the aminoazanoradamantane 10. The aminoazanoradamantane 10 is coupled directly, without resolution or purification, with 4-amino-5-chloro-2-methoxybenzoic acid in the presence of CDI to afford the desired azanoradamantane benzamide (+)-11 enantiomer, which is isolated directly by crystallization from the reaction mixture. The azanoradamantane benzamide 11 is then converted to the monohydrochloride salt.

reactant | ammonia | N | H3N
reactant | cis-5-norbornene-endo-2,3-dicarboxylic anhydride | C1[C@@H]2C=C[C@H]1C3C2C(=O)OC3=O | C9H8O3
reactant | HTIB | OC=1C(=C(C=CC1)I)OS(=O)(=O)C1=CC=C(C)C=C1 | C13H11IO4S
product | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
